### ISSUE TITLE
Fix issue when only sorry tactic is used with blaster executed with only-optimize option

### ISSUE THREAD

**Issue by RSoulatIOHK** [input-output-hk/Lean-blaster#60]
```lean
theorem sto8 :
∀ (x : ProcessSCInput) (s : ComputeReserve),
    isSellSCOrder x →
    validOrderInput x →
    resultToComputeReserve (fromHaltState $ compiledProcessSCOrder x) = some s →
    validSellSC x s := by
    intro x s;
    blaster (only-optimize: 1)
    by_cases x.state.crN_SC = 0 <;>
    by_cases x.state.crN_RC = 0
    . sorry
    . sorry
    . sorry
    . sorry
```

---
**Transferred from:** input-output-hk/sc-fvt#506
